datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2.[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[N:63]2>>C[N:23]1[C:22]2=[C:21](C=CC=C2)[CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[N:63]3)[C:31]2=[C:32]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1.[CH-:10]([C:61]#[N:62])[C:71]#[N:72]>>C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1.[CH:10]([F:20])([C:61]#[N:62])[C:71]#[N:72] 10=20;20,21=21"
"C1=CC=C([S:61]([C:10](=[C:11]=[N-:12])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.C[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>C[O:33][C:22](=[CH:21][CH2:20][C:10]([C:11]#[N:12])([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N:12]2[CH:11]=[CH2:10].Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1>>C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N+:12]2=[CH:11][CH2:10][Cl:20].Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC=C(C2=CN(C[C@@H]3CCC[NH:10]3)N=N2)C=C1.[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>C1=CC=C(C2=CN(C[C@@H]3CCC[NH+:10]3[C:20]3([C:31]4=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]4)[C:41]4=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]4)[C:52]4=[C:51]3[CH:56]=[CH:55][CH:54]=[CH:53]4)N=N2)C=C1 10=20
"CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>CC1=CC(C)=C(C(C)C[CH:20]([H:10])[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20"
CC1(C)CCC[NH:10]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH+:10]2CCCC2(C)C)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10=20
"CC/[C:11](=[CH:10]/C)[O:12][Si:13](C)(C)C.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>CC[C:11]([CH:10](C)[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1)=[O:12].C[Si+:13](C)C 10,11=10,20;12,13=11,12"
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].[H:10][SiH:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1>>CC(C)(C)[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23].[SiH+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1 10,11=10,20;20,21=21,22;22,23=23"
"C=C(C)CCC[C:11](C)=[CH2:10].COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC>>C=C(C)CCC[C+:11](C)[CH2:10][CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC(OC)=C(OC)C(OC)=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[O+]#C[W-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C2C3C54>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[O+]#C[W-2:11]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20"
"F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.O=C(OCC1=CC=CC=C1)[NH:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>O=C(OCC1=CC=CC=C1)[NH+:12]=[C:11]([CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12"
"C1=CC=C([C:10]#[C:11][N:12]2CCC[C:63]2=[O:64])C=C1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([C:10](C2=CC=CC=C2)=[C:11]=[N+:12]2CCC[C:63]2=[O:64])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[Si:11]1([H:10])CCCC1>>CC(C)(C)[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23].C[Si+:11]1CCCC1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11]1([H:10])[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>C[C+:11]1[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1.C[O:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1 10,11=10,20;20,21=21"
